US05821246
Using an analogous procedure to that described in Example 1 except that the reaction mixture was heated to reflux for 6 hours, 4-amino-2-chlorophenyl 3-furylmethyl ether was reacted with 4-chloro-6,7-dimethoxyquinazoline hydrochloride to give 4-[3-chloro-4-(3-furylmethoxy)anilino]-6,7-dimethoxyquinazoline hydrochloride salt in 79% yield, m.p. 244°-246° C.;

reactant | 4-amino-2-chlorophenyl 3-furylmethyl ether | O1C=C(C=C1)COC1=C(C=C(C=C1)N)Cl | C11H10ClNO2
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 4-[3-chloro-4-(3-furylmethoxy)anilino]-6,7-dimethoxyquinazoline hydrochloride salt | 79% yield | Cl.ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1OCC1=COC=C1 | InChI=1S/C21H18ClN3O4.ClH/c1-26-19-8-15-17(9-20(19)27-2)23-12-24-21(15)25-14-3-4-18(16(22)7-14)29-11-13-5-6-28-10-13;/h3-10,12H,11H2,1-2H3,(H,23,24,25);1H
